US06225465B1
b) (S)-2,3,4,5-Tetrahydro-7-[[[(benzimidazol-2-yl)methyl]amino]carbonyl]-3-oxo-1H-1,4-benzodiazepine-2-acetic acid
Methyl (S)-2,3,4,5-tetrahydro-7-[[[(benzimidazol-2-yl)methyl]amino]carbonyl]-3-oxo-1H-1,4-benzodiazepine-2-acetate is hydrolyzed with 1M LiOH to yield the title compound (66%) as a white powder: [α]n25 −145.3° (c=1, CH3OH); MS (ES) m/e 394.2 (M+H)+. Anal. Calcd for C20H19N5O4.2 TFA.0.125 H2O: C, 46.22; H, 3.43; N, 11.23. Found: C, 46.13; H, 3.78; N, 11.49.

reactant | Methyl (S)-2,3,4,5-tetrahydro-7-[[[(benzimidazol-2-yl)methyl]amino]carbonyl]-3-oxo-1H-1,4-benzodiazepine-2-acetate | N1=C(NC2=C1C=CC=C2)CNC(=O)C=2C=CC1=C(CNC([C@@H](N1)CC(=O)OC)=O)C2 | C21H21N5O4
reactant | LiOH | 1M | [Li+].[OH-]
product | (S)-2,3,4,5-Tetrahydro-7-[[[(benzimidazol-2-yl)methyl]amino]carbonyl]-3-oxo-1H-1,4-benzodiazepine-2-acetic acid | 66% | N1=C(NC2=C1C=CC=C2)CNC(=O)C=2C=CC1=C(CNC([C@@H](N1)CC(=O)O)=O)C2 | C20H19N5O4
